US08491868B2
Synthesis of 1-(4((2-fluoroethoxy)methyl)-phenyl)piperazine hydrochloride
Tert-butyl 4-(4-((2-fluoroethoxy)methyl)phenyl)piperazine-1-carboxylate (100 mg, 0.29 mmol) was dissolved in a 4.0M solution of HCl in dioxane (1 mL) and stirred at room temperature. After 1 h, 1-(4-((2-fluoroethoxy)methyl)-phenyl)piperazine hydrochloride was collected as a white solid via filtration (74 mg, 91% yield). 1H NMR (300 MHz, DMSO-d6): δ 10.45 (br s, 1H), 9.71 (br s, 1H), 7.26 (d, 2H, J=8.7 Hz), 7.05 (d, 2H, J=8.7 Hz), 4.61 (m, 1H), 4.45 (m, 1H), 4.43 (s, 2H), 3.67 (tn, 1H), 3.57 (m, 1H), 3.45 (dd, 4H, J=5.5, 4.9 Hz), 3.22 (m, 4H); 19F NMR (282.4 MHz, CDCl3): δ−221.40 (m, 1F); 13C NMR (75.5 MHz, DMSO): δ 148.5, 130.7, 128.9, 116.4, 84.0 (82.0), 71.7, 68.7 (68.6), 46.0, 42.2; HRMS calcd for C13H19FN2O: 239.15542 found 239.15540.

reactant | Tert-butyl 4-(4-((2-fluoroethoxy)methyl)phenyl)piperazine-1-carboxylate | 0.29 mmol, 100 mg | FCCOCC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H27FN2O3
reactant | HCl | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-(4((2-fluoroethoxy)methyl)-phenyl)piperazine hydrochloride | 91% yield | Cl.FCCOCC1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C13H19FN2O.ClH/c14-5-10-17-11-12-1-3-13(4-2-12)16-8-6-15-7-9-16;/h1-4,15H,5-11H2;1H
